US04234731
Ethyl-1-allyl-7-methoxy-2-oxo-1,2,3,4-tetrahydro-1-naphthaleneacetate.
Into a flame-dry 500 ml 3-neck flask provided with mechanical stirrer, dropping funnel and a nitrogen inlet tube was placed 4.21 g sodium hydride (55% dispersion in oil, 100 mmol) with the apparatus placed under nitrogen. The oil was washed out with benzene (3×30 ml), 40 ml dry dimethylformamide was added and the suspension was stirred and cooled in an ice-bath. A solution of 21.6 g (100 mmol) 1-allyl-3,4-dihydro-7-methoxy-2(1H)naphthalenone (VIIIa) in 10 ml dimethylformamide was added dropwise (10 min), then the cooling bath was removed and stirring at room temperature continued until the evolution of gas ceased (2 hr). The brown-colored reaction mixture was cooled (ice-bath) and a solution of 16.7 g (100 mmol) ethyl bromoacetate in 40 ml dimethylformamide was added dropwise keeping the reaction temperature below 25° C. After the addition (15-20 min) stirring in cold was continued for 1 hr and then overnight at room temperature. Water (300 ml) was added and extracted with ether (3×100 ml). The combined ether extracts were washed with water (2×100 ml) dried (MgSO4), the solvent removed by evaporation and the residue was distilled to give 26.0 g (86%) IXa, b.p. 145°-150°/0.05-0.01 mm Hg; IR (neat) 1740, 1715 cm-1 ; NMR δ, 1.05 and 3.92 (triplet and quartet for OCH2CH3), 3.75 (s, 3, OCH3), 4.65-6.0 (m, 3, CH=CH2), 6.55-7.15 (m, 3, ArH).

reactant | sodium hydride | 100 mmol, 4.21 g | [H-].[Na+]
reactant | 1-allyl-3,4-dihydro-7-methoxy-2(1H)naphthalenone | 100 mmol, 21.6 g | C(C=C)C1C(CCC2=CC=C(C=C12)OC)=O | C14H16O2
reactant | ethyl bromoacetate | 100 mmol, 16.7 g | BrCC(=O)OCC | C4H7BrO2
reactant | Water | 300 ml | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | Ethyl-1-allyl-7-methoxy-2-oxo-1,2,3,4-tetrahydro-1-naphthaleneacetate | C(C)OC(CC1(C(CCC2=CC=C(C=C12)OC)=O)CC=C)=O | C18H22O4
